US06005000
A total of 5.2 mL (10.4 mmol) of 2.0 M n-propylmagnesium bromide was added to a solution of 2.4 g (10 mmol) of ethyl 4-phenylbenzoylformate in THF in an analogous manner as described for the synthesis of 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone to give prior to hydrogenolysis 0.30 g (8% yield) of 5-[(1,1'-biphenyl)-4-yl]-4-hydroxy-3-phenylmethoxy-5-propyl-2(5H)-furanone as an off white solid after crystallization from CHCl3 and hexanes.

reactant | n-propylmagnesium bromide | 10.4 mmol, 2.0 M, 5.2 mL | C(CC)[Mg]Br
reactant | ethyl 4-phenylbenzoylformate | 10 mmol, 2.4 g | C1(=CC=CC=C1)C1=CC=C(C(=O)C(=O)OCC)C=C1 | C16H14O3
reactant | 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone | OC=1C(OC(C1O)(C1=CC=CC=C1)C)=O | C11H10O4
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | THF | C1CCOC1 | C4H8O
product | 5-[(1,1'-biphenyl)-4-yl]-4-hydroxy-3-phenylmethoxy-5-propyl-2(5H)-furanone | 0.30 g, 8% yield | C1(=CC=C(C=C1)C1(C(=C(C(O1)=O)OCC1=CC=CC=C1)O)CCC)C1=CC=CC=C1 | C26H24O4
